US05468748
9-(4-Diphenylmethyl-1-piperazinyl)-9H-indeno[1,2-b]pyrazine-2,3(1H, 4H)-dione
9-Chloro-9H-indeno[1,2-b]pyrazine-2,3(1H, 4H)-dione (1.0 g, 4.26 mmol) was suspended in 10 ml of dry tetrahydrofuran, while cooling in an ice bath. 1-(Diphenylmethyl)piperazine (1.1 g, 4.26 mmol) dissolved in 10 ml of dry tetrahydrofuran was added over 10 min., thereafter triethylamine (0.59 ml, 4.26 mmol) in 3 ml tetrahydrofuran was added. The ice bath was removed and stirring was continued for 20 hours at room temperature. The precipitate was filtered off and washed with tetrahydrofuran to give 1.36 g of the crude product which was recrystallized two times from acetic acid to yield 0.45 g (20%) of the title compound as a hydrochloride. M.p. 212°-216° C. 1H-NMR (DMSO-d6, δ): 2.5-3.3 (m, 8H), 4.64 (s, 1H), 5.62 (d, 1H), 7.1-7.9 (m, 14H), 11.25 (s, 1H), 11.74 (s, 1H), 12.25 (s, 1H).

reactant | 9-Chloro-9H-indeno[1,2-b]pyrazine-2,3(1H, 4H)-dione | 4.26 mmol, 1.0 g | ClC1C=2C=CC=CC2C=2NC(C(NC21)=O)=O | C11H7ClN2O2
reactant | 1-(Diphenylmethyl)piperazine | 4.26 mmol, 1.1 g | C1(=CC=CC=C1)C(N1CCNCC1)C1=CC=CC=C1 | C17H20N2
reactant | triethylamine | 4.26 mmol, 0.59 ml | C(C)N(CC)CC | C6H15N
solvent | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 3 ml | O1CCCC1 | C4H8O
product | 9-(4-Diphenylmethyl-1-piperazinyl)-9H-indeno[1,2-b]pyrazine-2,3(1H, 4H)-dione | 0.45 g, 20% | C1(=CC=CC=C1)C(N1CCN(CC1)C1C=2C=CC=CC2C=2NC(C(NC21)=O)=O)C2=CC=CC=C2 | C28H26N4O2
